US07820673B2
47a) 3-((tert-butoxycarbonyl)amino)-4,4-dimethylpentanoic acid
3-amino-4,4-dimethylpentanoic acid (0.51 g) and triethylamine (0.78 g) were dissolved in THF (10 ml) and water (10 ml), di-tert-butyl dicarbonate (0.71 g) was added thereto, and mixed at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, washed with diethyl ether, acidified with a 5% aqueous citric acid solution, and then extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure to obtain the title compound as colorless powder (0.65 g, 85%).

reactant | 3-amino-4,4-dimethylpentanoic acid | 0.51 g | NC(CC(=O)O)C(C)(C)C | C7H15NO2
reactant | triethylamine | 0.78 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.71 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 3-((tert-butoxycarbonyl)amino)-4,4-dimethylpentanoic acid | 0.65 g, 85% | C(C)(C)(C)OC(=O)NC(CC(=O)O)C(C)(C)C | C12H23NO4
